US07838499B2
Preparation of 4-(5-bromo-2-chlorobenzyl)benzaldehyde (Intermediate AL)
To a solution of (4-(5-bromo-2-chlorobenzyl)phenyl)methanol (intermediate AK) (1 g) in CH2Cl2 (10 mL), the solution of Dess-Martin periodinane (DMP) (1.22 g) in CH2Cl2 (10 mL) was added dropwise at 0° C. The mixture was warmed to room temperature, and the reaction was monitored by TLC. After 1 h, CH2Cl2 was added to dilute the solution and 1 M NaOH was added to quench the reaction. The CH2Cl2 layer was separated and washed with aqueous NaHSO3 and brine, and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the product was purified by column chromatography to obtain pure intermediate AL (0.62 g).

reactant | (4-(5-bromo-2-chlorobenzyl)phenyl)methanol | 1 g | BrC=1C=CC(=C(CC2=CC=C(C=C2)CO)C1)Cl | C14H12BrClO
reactant | Dess-Martin periodinane | 1.22 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-bromo-2-chlorobenzyl)benzaldehyde | BrC=1C=CC(=C(CC2=CC=C(C=O)C=C2)C1)Cl | C14H10BrClO
